US07910595B2
Pyrazine-2-carboxylic acid (4-fluoro-3-nitrophenyl)amide
To a solution of pyrazine-2-carboxylic acid (2.00 g, 16.1 mmol) and Et3N (2.50 ml, 17.7 mmol) in THF (40 mL) was added ethyl chloroformate (1.74 mL, 17.7 mmol) dropwise at 5° C. and the mixture was stirred at 5° C. for 1 hour. 4-Fluoro-3-nitroaniline (2.80 g, 17.7 mmol) was added to the mixture at 5° C. The mixture was warmed to room temperature, stirred at room temperature for 4 hours, and then evaporated. The residue was suspended in a mixture of H2O (100 ml) and i-Pr2O (100 ml) and stirred at room temperature for 30 minutes. The resulting crystal was collected by filtration and washed with H2O and i-Pr2O to give the desired product as pale brown crystals (2.91 g, 69%).

reactant | pyrazine-2-carboxylic acid | 16.1 mmol, 2.00 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | Et3N | 17.7 mmol, 2.50 ml | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 17.7 mmol, 1.74 mL | ClC(=O)OCC | C3H5ClO2
reactant | 4-Fluoro-3-nitroaniline | 17.7 mmol, 2.80 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Pyrazine-2-carboxylic acid (4-fluoro-3-nitrophenyl)amide | 2.91 g, 69% | FC1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C11H7FN4O3
